US07825265B2
4-(2-Phenyl-tetrahydro-pyran-2-yl)-phenol
2-(4-Benzyloxy-phenyl)-2-phenyl-3,6-dihydro-2H-pyran (4.1 g) was dissolved in methanol (25 mL) and ethyl acetate (5 mL). 5% Palladium on carbon (10 mg) was added. Nitrogen was bubbled through the solution. Ammonium acetate (4 g) was added. The mixture was stirred for 6 h, filtered through a block of celite and concentrated to a solid. NMR indicated full conversion to the title product (3.1 g, 12.2 mmol).

reactant | 2-(4-Benzyloxy-phenyl)-2-phenyl-3,6-dihydro-2H-pyran | 4.1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1(OCC=CC1)C1=CC=CC=C1 | C24H22O2
solvent | methanol | 25 mL | CO | CH4O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | 10 mg | [Pd] | Pd
product | 4-(2-Phenyl-tetrahydro-pyran-2-yl)-phenol | 12.2 mmol, 3.1 g | C1(=CC=CC=C1)C1(OCCCC1)C1=CC=C(C=C1)O | C17H18O2
